US05455273
trans-4-[4-(3-Hydroxypropyl)methylaminomethylphenyl]-N-methylcyclohexylamin
7.1 g of trans-N-tert.butoxycarbonyl-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine are combined with 20 ml of trifluoroacetic acid in 150 ml of methylene chloride at ambient temperature. After 2 hours, ice and 6N sodium hydroxide solution are added, the organic phase is separated off, washed, dried and evaporated down. After the residue has been recrystallised from ether, 3.1 g of the title compound are obtained, melting point 144°-146° C.

reactant | trans-N-tert.butoxycarbonyl-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | 7.1 g | C(C)(C)(C)OC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)CCCO)CNC | C23H38N2O3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | trans-4-[4-(3-Hydroxypropyl)methylaminomethylphenyl]-N-methylcyclohexylamin | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C18H30N2O
